US07781431B2
Step 2: 6-cyclopentyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
A solution (0.015 M) of methyl 6-cyclopentyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in THF/MeOH (1:1) was treated with aqueous NaOH (2 N solution, 20 eq.) then the mixture was heated to reflux for 45 min. After cooling down, the mixture was concentrated then the residue diluted with water and acidified to pH 2-3 with aqueous HCl (1 N) and extracted with AcOEt. The combined organic phase was dried and concentrated to give a residue that was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 10 micron, 19×150 mm; flow: 20 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 90% A isocratic for 2 min then linear to 10% A in 9 min) to afford the title compound (73%) as a solid.

reactant | methyl 6-cyclopentyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.015 M | C1(CCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C19H19NO2S
reactant | NaOH | 2 N, 20 eq. | [OH-].[Na+]
solvent | THF MeOH | C1CCOC1.CO
product | 6-cyclopentyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 73% | C1(CCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)O | C18H17NO2S
